2149-05-17 12:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Received bicarbonate infusion and high flow O2 and became somnolent.
   ABG showed worsening acidosis w/ respiratory component. Bicarb was
   stopped and O2 was decreased and she improved.
   Allergies:
   Amoxicillin
   Rash;
   Atenolol
   Wheezing;
   Bupropion Hcl
   not tolerated;
   Last dose of Antibiotics:
   Cefipime - [**2149-5-17**] 03:27 AM
   Metronidazole - [**2149-5-17**] 05:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-5-17**] 02:50 AM
   Furosemide (Lasix) - [**2149-5-17**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-17**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.5
C (94.1
   Tcurrent: 34.3
C (93.8
   HR: 91 (80 - 91) bpm
   BP: 91/77(54) {91/19(43) - 122/77(63)} mmHg
   RR: 29 (25 - 48) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
             2,750 mL
   PO:
             TF:
   IVF:
   1,750 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,750 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.17/47/137/12/-11
   PaO2 / FiO2: 171
   Physical Examination
   Gen: Lethargic and oriented to person and hospital and [**Month (only) **]
   Heart: RRR, distant heart sounds
   Lungs: Diffusely decreased BS bilaterally
   Abd: Diffusely tender, very difficult exam given mental status but
   appears most tender in RUQ
   Ext: 2+ pitting edema in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 8695**].
   Labs / Radiology
   251 K/uL
   10.5 g/dL
   310 mg/dL
   5.9 mg/dL
   12 mEq/L
   9.4 mEq/L
   114 mg/dL
   87 mEq/L
   127 mEq/L
   32.6 %
   13.6 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:48 AM
                             [**2149-5-17**]  05:43 AM
                             [**2149-5-17**]  08:31 AM
                             [**2149-5-17**]  10:51 AM
   WBC
   13.6
   Hct
   32.6
   Plt
   251
   Cr
   5.8
   5.9
   TCO2
   17
   18
   Glucose
   266
   310
   Other labs: PT / PTT / INR:14.9/29.4/1.3, Lactic Acid:6.6 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:8.6 mg/dL
   Assessment and Plan
   81 yo F w/ anuric renal failure and shortness of breath s/p attempted
   volume resuscitation
   .
   #Shortness of breath/hypoxia: Milder than originally thought as pleth
   on SPO2 monitor likely was bad. Likely large contribution from fluid
   overload given anuric. Metabolic acidosis contributing to sense of
   dyspnea and tachypnea
   - Minimize O2 to prevent CO2 retention
   - Dialyze, renal aware, making plans
   .
   #Acidosis: Partly uremic and partly lactic likely from metformin in
   setting of renal failure
   - will need dialysis soon
   .
   # RUQ pain: Difficult exam given mental status, lipase elevated
   consider pancreatitis or gastroenteritis.
   - RUQ u/s
   - Renal u/s
   .
   #ARF: likely prerenal vs. ATN vs. vascular insufficiency.
   - Renal u/s w/ dopplers
   - Spin urine for casts
   - U/A
   - (if urine obtained)
   .
   #DMII: holding Pos
   - SSI
   .
   #dementia: will need long family meeting if planning to dialyze on long
   term basis
   - continue home meds
   .
   PPx: Subq hep
   .
   Code: DNR/DNI
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-5-17**] 02:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2149-05-17 14:47:00 Physician Attending Progress Note
Chief Complaint:  respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo female admitted from NSF with 3 days of diminished po
   intake/cough. Labs initially showed ARF with a Cr of 4, BUN of 88.
   Despite ongoing fluid resuscitation, her renal fx worsened and she was
   sent to the ED.
   In the ED, RR was 36 on 4 liters n.c. CXR showed a RML/RLL infiltrate
   (Has known RLL mass/collapse dating back to [**2144**]). Received
   Vanc/Cef/LVQ and nebs. Foley attempted without success. CT abd with
   complete collapse of the bladder. With 2 liters fluid, lactate remained
   high, 5.9.
   Hypothermic on arrival
   Shortly after [**Hospital Unit Name 44**], began desaturating - now on 100% NRB
   Patient admitted from: Transfer from other hospital
   History obtained from Medical records, ICU housestaff
   Allergies:
   Amoxicillin
   Rash;
   Atenolol
   Wheezing;
   Bupropion Hcl
   not tolerated;
   Last dose of Antibiotics:
   Cefipime - [**2149-5-17**] 03:27 AM
   Metronidazole - [**2149-5-17**] 05:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-5-17**] 02:50 AM
   Other medications:
   Metformin, glipizide, verapamil, lantus, lasix 60 mg qd, prednisone,
   atrovent, albuterol, aricept, levothyroxine, [**Doctor First Name **]
   Past medical history:
   Family history:
   Social History:
   Dementia
   RLL mass
   HTN
   Hyperliipidemia
   ?Diastolic HF
   Anxiety
   ?on prednisone 2.5 mg
   Occupation: [**Hospital1 169**] with husband, [**Name (NI) 8693**] on [**Name (NI) 611**]
   Drugs: no
   Tobacco: no
   Alcohol: no
   Other:
   Review of systems:
   Flowsheet Data as of [**2149-5-17**] 09:12 AM
   Vital Signs
   Hemodynamic monitoring
   Fluid Balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.5
C (94.1
   Tcurrent: 34.4
C (94
   HR: 90 (80 - 90) bpm
   BP: 105/19(43) {95/19(43) - 122/44(63)} mmHg
   RR: 48 (38 - 48) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
             2,775 mL
   PO:
             TF:
   IVF:
   1,775 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,775 mL
   Respiratory
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: 7.17/47/137//-11
   PaO2 / FiO2: 171
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, right facial droop
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: right base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   251 K/uL
   32.6 %
   10.5 g/dL
   266 mg/dL
   5.8 mg/dL
   108 mg/dL
   19
   5.7
   13.6 K/uL
        [image002.gif]
                             [**2149-5-17**]  02:48 AM
                             [**2149-5-17**]  05:43 AM
                             [**2149-5-17**]  08:31 AM
   WBC
                                    13.6
   Hct
                                    32.6
   Plt
                                     251
   Cr
                                     5.8
   TC02
                                     17
                                     18
   Glucose
                                     266
   Other labs: PT / PTT / INR:14.9/29.4/1.3, Lactic Acid:6.6 mmol/L,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:7.2 mg/dL
   Fluid analysis / Other labs: amylase 252, lipase 1082
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   1. Hypoxia/Acute respiratory distress:
   *Has volume overload and with HH/RLL collapse, Pna also likely
   remains on Vanc/Cefipime/flagyl - Continue cefipime/flagyl and dose
   Vanco by levels
   2. Acute renal failure, anuric
   so far with no urine output since ED arrival, though ability to track
   i/s's complicated by lack of Foley.
   *Plan Foley, if unable will call Urology
   *Abdominal US
   *Renal consulted for dialysis due to evolving acidosis and hyperkalemia
   *Received kayexelate for hyperkalemia, continue to follow closely
   3. Elevated amylase, lipase
   ? pancreatitis with elevated amylase and especially lipase, though pt's
   abdomen not especially tender
   Check Abd CT
   Bowel rest; trend #'s
   4. AG acidosis: Possibilities include metformin, sepsis, uremia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines / Intubation:
   18 Gauge - [**2149-5-17**] 02:29 AM
   Comments:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-05-18 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Anuric Renal Failure and Shortness of Breath
   24 Hour Events:
   - Art Line placed
   - IJ Dialysis catheter placed
   - CVVH started
   - Patient required Non-invasive ventilation overnight for hypercarbic
   resp failure
   - Patient noted to be hypocalemic, on continous calcium infusion
   - CT abdomen showed Pancreatitis, cholelithiasis
   Allergies:
   Amoxicillin
   Rash;
   Atenolol
   Wheezing;
   Bupropion Hcl
   not tolerated;
   Last dose of Antibiotics:
   Metronidazole - [**2149-5-18**] 03:30 AM
   Cefipime - [**2149-5-18**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2149-5-17**] 08:30 AM
   Hydromorphone (Dilaudid) - [**2149-5-17**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2149-5-17**] 08:45 PM
   Dextrose 50% - [**2149-5-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-18**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.2
C (95.4
   Tcurrent: 35.2
C (95.4
   HR: 91 (66 - 95) bpm
   BP: 115/52(77) {87/35(59) - 115/54(77)} mmHg
   RR: 23 (10 - 48) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,311 mL
                                                                    734 mL
   PO:
             TF:
   IVF:
                                                                  2,311 mL
                                                                    709 mL
   Blood products:
   Total out:
                                                                    366 mL
                                                                    958 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,945 mL
                                                                   -224 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 589 (0 - 589) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.32/46/75/27/-2
   Ve: 10.7 L/min
   PaO2 / FiO2: 125
   Physical Examination
   Gen: Awake, AO x 1
   Heart: RRR, distant heart sounds
   Lungs: Diffusely decreased BS bilaterally
   Abd: Diffusely tender/  + BS
   Ext: 2+ pitting edema in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 8695**].
   Labs / Radiology
   199 K/uL
   10.3 g/dL
   58 mg/dL
   2.2 mg/dL
   27 mEq/L
   4.1 mEq/L
   40 mg/dL
   97 mEq/L
   138 mEq/L
   30.5 %
   18.7 K/uL
        [image002.jpg]
                             [**2149-5-17**]  01:57 PM
                             [**2149-5-17**]  02:14 PM
                             [**2149-5-17**]  02:59 PM
                             [**2149-5-17**]  11:01 PM
                             [**2149-5-17**]  11:09 PM
                             [**2149-5-17**]  11:41 PM
                             [**2149-5-17**]  11:56 PM
                             [**2149-5-18**]  01:37 AM
                             [**2149-5-18**]  04:05 AM
                             [**2149-5-18**]  04:21 AM
   WBC
   18.7
   Hct
   30.5
   Plt
   199
   Cr
   2.2
   TropT
   0.06
   TCO2
   16
   15
   15
   26
   27
   23
   25
   Glucose
   80
   58
   Other labs: PT / PTT / INR:14.9/29.4/1.3, CK / CKMB /
   Troponin-T:354/12/0.06, Lactic Acid:3.3 mmol/L, Ca++:7.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Renal U/S: IMPRESSION: Unremarkable renal ultrasound without evidence
   of hydronephrosis.
   CT Abdomen:
   IMPRESSION:
   1. Uncomplicated pancreatitis.
   2. Increased mass effect and airway obstruction since [**2149-2-21**] raise
   concern
   for underlying pneumonia, although findings could also be from
   increased
   atelectasis. Large right lung base mass not well evaluated on this
   study. If
   evaluation needed, contrast enhanced CT or MRI could be performed as
   clinically indicated.
   3. Ill-defined subcentimeter hyperdense focus in the interpolar region
   of the
   right kidney can be further assessed when the patient is more stable.
   4. Chronic subcentimeter splenic artery aneurysms as above.
   Assessment and Plan
   81 yo F w/ anuric renal failure on CVVH and Respiratory failure
   .
   #Respiratory failure/HAP:  Patient was ventilated overnight with
   non-invasive for hypercarbia, likely secondary to oversedation from
   dilaudid.  This AM, patient
s Oxygen requirement is increasing.
   Patient has a known RLL mass, that is likely causing a post obstructive
   pneumonia.  Patient also has signs of volume overload for which she is
   on CVVH.
   -          Continue Vanc/Cefepime/Flagyl
   -          Continue facemask oxygen
   -          Continue Nebs
   -          d/w family goals of care
   -          d/c Prednisone
   -
   Anuric renal failure:  Patient on CVVH, goal was to keep patient even
   yesterday.  Patient has foley in place, has not made any urine.   Renal
   dopplers negative.
   -          Continue CVVH, with goal slightly negative today
   -          Change Calcium sliding scale
   -
   .
   #Acidosis: Partly uremic and partly lactic likely from metformin in
   setting of renal failure
   - Improving
   .
   # Pancreatitis:  Likely from passed gallstones.  Patient with
   tenderness in abdomen.
   -          Keep patient NPO
   -          Morphine 1mg prn
   .
   #DMII: holding Pos
   - SSI
   .
   #dementia: will need long family meeting if planning to dialyze on long
   term basis
   - continue home meds
   .
   PPx: Subq hep
   .
   Code: DNR/DNI.  Discuss goals of care with family.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-5-17**] 02:29 AM
   Arterial Line - [**2149-5-17**] 01:12 PM
   Dialysis Catheter - [**2149-5-17**] 04:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2149-05-18 10:30:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   81 yo female, [**Hospital1 169**] resident, admitted with anuric renal failure, ?PNA in
   the setting of known RLL mass, lactic acidosis (was on metformin) and
   pancreatitis
   24 Hour Events:
   *CT abdomen confirmed pancreatitis
   *Dilaudid given for pain with eventual development of hypercarbia- mask
   ventilation started with discussion with family- so long as she feels
   comfortable, they were agreeable
   *Foley placed but still minimal urine output
   *Seen by renal and CVVHD started
 ARTERIAL LINE - START [**2149-5-17**] 01:12 PM
 DIALYSIS CATHETER - START [**2149-5-17**] 04:01 PM
 ULTRASOUND - At [**2149-5-17**] 05:51 PM
   renal
 NON-INVASIVE VENTILATION - START [**2149-5-18**] 12:00 AM
 NON-INVASIVE VENTILATION - STOP [**2149-5-18**] 05:41 AM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: dementia
   Allergies:
   Amoxicillin
   Rash;
   Atenolol
   Wheezing;
   Bupropion Hcl
   not tolerated;
   Last dose of Antibiotics:
   Metronidazole - [**2149-5-18**] 03:30 AM
   Cefipime - [**2149-5-18**] 04:30 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2149-5-17**] 08:30 PM
   Dextrose 50% - [**2149-5-18**] 06:00 AM
   Heparin Sodium (Prophylaxis) - [**2149-5-18**] 08:05 AM
   Pantoprazole (Protonix) - [**2149-5-18**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-5-18**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 93 (66 - 101) bpm
   BP: 112/46(71) {87/35(59) - 122/54(81)} mmHg
   RR: 22 (10 - 42) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                  3,311 mL
                                                                  1,080 mL
   PO:
             TF:
   IVF:
                                                                  2,311 mL
                                                                  1,055 mL
   Blood products:
   Total out:
                                                                    366 mL
                                                                  1,190 mL
   Urine:
   5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,945 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   Vt (Spontaneous): 589 (0 - 589) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.38/42/66/27/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished, No acute distress, does not follow
   commands
   Head, Ears, Nose, Throat: No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   rhonchorous with occasional wheezing
   Abdominal: Soft, Bowel sounds present, mildly diffusely tender without
   guarding/rebound
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: voice (intermittently) Movement: Not assessed,
   Tone: normal
   Labs / Radiology
   10.3 g/dL
   199 K/uL
   58 mg/dL
   2.2 mg/dL
   27 mEq/L
   4.1 mEq/L
   40 mg/dL
   97 mEq/L
   138 mEq/L
   30.5 %
   18.7 K/uL
        [image002.jpg]
                             [**2149-5-17**]  02:59 PM
                             [**2149-5-17**]  11:01 PM
                             [**2149-5-17**]  11:09 PM
                             [**2149-5-17**]  11:41 PM
                             [**2149-5-17**]  11:56 PM
                             [**2149-5-18**]  01:37 AM
                             [**2149-5-18**]  04:05 AM
                             [**2149-5-18**]  04:21 AM
                             [**2149-5-18**]  07:36 AM
                             [**2149-5-18**]  09:49 AM
   WBC
   18.7 (increased)
   Hct
   30.5
   Plt
   199
   Cr
   2.2
   TropT
   0.06
   TCO2
   15
   26
   27
   23
   25
   23
   26
   Glucose
   80
   58
   Other labs: PT / PTT / INR:14.9/29.4/1.3, CK / CKMB /
   Troponin-T:354/12/0.06, Amylase / Lipase:/Lipase pending, Lactic
   Acid:3.3 mmol/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: Vanc level 7
   Imaging: CT abd: pancreatitis
   RLL mass with post-obstructive
   Renal US: no hydronephrosis
   Assessment and Plan
   81 yo female with dementia, [**Hospital1 169**] resident admitted with lactic acidosis,
   RML/RLL PNA, anuric renal failure, pancreatitis
   1. RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): started on CVVH
   yesterday- tolerating, though still with minimal urine output.
   2. PNA: Has worsening oxygen requirement and leukocytosis; CT Abd
   confirming PNA with probable post-obstructive component: remains on
   broad coverage with vanc/cefipime/flagyl/LVQ. Begin nebs, on NIPPV as
   tolerated
   3. Lactic acidosis: slightly improved. Continue to hold metformin
   4. Pancreatitis: confirmed by abd CT yesterday. Pt on bowel rest, pain
   control. Repeat lactase pending today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-5-17**] 02:29 AM
   Arterial Line - [**2149-5-17**] 01:12 PM
   Dialysis Catheter - [**2149-5-17**] 04:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 45 minutes
   Pt is critically ill